US07067517B2
4-(4-Hydroxy-piperidin-1-ylmethyl)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title product was prepared from 1-piperidin-4-ylmethyl-piperidine-4-ol (released form the correspondent hydrochloride by a standard procedure) and 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate, preparative HPLC (method C) (reaction performed in a mixture of dichloromethane and dimethylformamide). 1.7 M HCl in ethyl acetate was added to the pooled fractions containing the title product, and the fractions was evaporated to dryness (92%, white solid. HPLC-MS m/z=(M+1) 480.4, Rt: 2.38 min.

reactant | 1-piperidin-4-ylmethyl-piperidine-4-ol | N1CCC(CC1)CN1CCC(CC1)O | C11H22N2O
reactant | hydrochloride | Cl | ClH
reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | HCl | 1.7 M | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Hydroxy-piperidin-1-ylmethyl)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCC(CC1)CN1CCC(CC1)O)(F)F | C24H28F3N3O4
